US05210092
A mixture (117.0 g) of (E)-3-(2,2-diethoxy-1-methylethylamino-3-(4-methoxycarbonylphenyl)acrylonitrile and (Z)-3-(2,2-diethoxy-1-methylethylamino)-3-(4-methoxycarbonylphenyl)acrylonitrile was treated with trifluoroacetic acid (200 ml) at 0° C. for 30 minutes and then at ambient temperature for 30 minutes. To the mixture ethyl acetate (300 ml) was added at 0° C. and this mixture was stirred at 0° C. for 15 minutes. The precipitates were collected by vacuum filtration to afford 2-(4-methoxycarbonylphenyl)-5-methylpyrrole-3-carbonitrile as an orange powder (54.8 g).

reactant | (Z)-3-(2,2-diethoxy-1-methylethylamino)-3-(4-methoxycarbonylphenyl)acrylonitrile | C(C)OC(C(C)N\C(=C/C#N)\C1=CC=C(C=C1)C(=O)OC)OCC | C18H24N2O4
reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-methoxycarbonylphenyl)-5-methylpyrrole-3-carbonitrile | 54.8 g | COC(=O)C1=CC=C(C=C1)C=1NC(=CC1C#N)C | C14H12N2O2
